US07338973B2
8-methoxy-6,11-dihydro-5-thia-4,11-diaza-benzo[a]fluorene
A mixture of 2,3-dihydro-thiopyrano[2,3-b]pyridin-4-one (2.24 g, 13.6 mmoL) and 4-methoxy-phenylhydrazine HCl salt (2.60 g, 14.9 mmoL) in EtOH (10 mL) was refluxed for 5 hours. The reaction mixture was cooled and filtrated through a pad of Celite to remove any solids in the mixture. The solvent was removed in vacua. The remaining residue was partitioned between EtOAc and saturated NaHCO3. The aqueous phase was extracted two times with EtOAc. The organic layer of each extraction was washed with water, brine, dried over anhydrous Na2SO4, filtered and concentrated to yield a brown oil. The crude material (the oil) was then purified by column chromatography (silica gel, hexanes:EtOAc1:1 as eluent) to yield the title compound as a pale solid.

reactant | 2,3-dihydro-thiopyrano[2,3-b]pyridin-4-one | 2.24 g | S1CCC(C=2C1=NC=CC2)=O | C8H7NOS
reactant | 4-methoxy-phenylhydrazine HCl salt | 2.60 g | Cl.COC1=CC=C(C=C1)NN
solvent | EtOH | 10 mL | CCO | C2H6O
product | 8-methoxy-6,11-dihydro-5-thia-4,11-diaza-benzo[a]fluorene | COC=1C=C2C=3CSC4=C(C3NC2=CC1)C=CC=N4 | C15H12N2OS
